US04330461
To a stirred, refluxing mixture of 5.00 g 4,6-dichloropyrimidine in 100 ml of o-dichlorobenzene under nitrogen was added dropwise 17.00 g of methyl diphenylphosphinite. After the addition was completed, the mixture was refluxed for 6.5 hours and then allowed to cool. The cooled mixture was added to 750 ml of n-hexane, and the white solid that formed was separated by filtration, washed with n-hexane, recrystallized from 150 ml of toluene, and dried at 100° C./0.1 mm (13 Pa) to give 13.64 g of 4,6-bis(diphenylphosphinyl)pyrimidine as cream-colored crystals, mp 213°-215° C. Anal. Calcd for C28H22N2O2P2 : C, 70.00; H, 4.62; N, 5.83; P, 12.89. Found: C, 69.80; H, 4.65; N, 5.65; P, 12.89.

reactant | 4,6-dichloropyrimidine | 5.00 g | ClC1=NC=NC(=C1)Cl | C4H2Cl2N2
reactant | methyl diphenylphosphinite | 17.00 g | C1(=CC=CC=C1)P(OC)C1=CC=CC=C1 | C13H13OP
reactant | n-hexane | 750 ml | CCCCCC | C6H14
solvent | o-dichlorobenzene | 100 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | 4,6-bis(diphenylphosphinyl)pyrimidine | 13.64 g | C1(=CC=CC=C1)P(=O)(C1=NC=NC(=C1)P(=O)(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C28H22N2O2P2
